US04618627
In 40 ml of acetic acid was dissolved 4.4 g of 11-benzyloxy-1-(3,4-dibenzyloxyphenyl)-1-undecanol and the compound was catalytically reduced in the presence of 1 g of 10% palladium-carbon at room temperature and under atomospheric pressure until the absorption of hydrogen stopped. After the reaction was over, the catalyst was filtered off and after adding 300 ml of water to the filtrate, the product was extracted twice each time with 70 ml of ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and then the solvent was distilled off to provide a solid product. The solid product was recrystallized from 10 ml of a mixture of ethyl acetate and toluene (1:1) to provide 1.5 g of 11-(3,4-dihydroxyphenyl)-1-undecanol.

reactant | 11-benzyloxy-1-(3,4-dibenzyloxyphenyl)-1-undecanol | 4.4 g | C(C1=CC=CC=C1)OCCCCCCCCCCC(O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C38H46O4
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 11-(3,4-dihydroxyphenyl)-1-undecanol | 1.5 g | OC=1C=C(C=CC1O)CCCCCCCCCCCO | C17H28O3
